US04414216
A mixture of 5.2 g of trans-2-(4-fluorophenyl)-4-(iodomethyl)tetrahydrofuran, 4.3 g of 1-(4-piperidyl)-5-chloro-benzimidazolin-2-one and 2.3 g of potassium carbonate in 50 ml of dimethylformamide is heated with stirring at 70° C. for 24 hours. The reaction mixture is then poured into water and extracted with ethyl acetate. The extract is washed with water and dried over magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue is dissolved in a small amount of chloroform, and a solution of 0.8 g of maleic acid in ethanol is added thereto. The crystals precipitated are collected by filtration and recrystallized from methanol to give 1-[1-(trans-2-(4-fluorophenyl)-tetrahydro-4-furylmethyl)-4-piperidyl]-5-chloro-benzimidazolin-2-one maleate, melting at 208.5°-209° C.

reactant | trans-2-(4-fluorophenyl)-4-(iodomethyl)tetrahydrofuran | 5.2 g | FC1=CC=C(C=C1)[C@@H]1OC[C@H](C1)CI | C11H12FIO
reactant | 1-(4-piperidyl)-5-chloro-benzimidazolin-2-one | 4.3 g | N1CCC(CC1)N1C(NC2=C1C=CC(=C2)Cl)=O | C12H14ClN3O
reactant | potassium carbonate | 2.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-[1-(trans-2-(4-fluorophenyl)-tetrahydro-4-furylmethyl)-4-piperidyl]-5-chloro-benzimidazolin-2-one maleate | C(\C=C/C(=O)O)(=O)O.FC1=CC=C(C=C1)[C@@H]1OC[C@H](C1)CN1CCC(CC1)N1C(NC2=C1C=CC(=C2)Cl)=O | InChI=1S/C23H25ClFN3O2.C4H4O4/c24-17-3-6-21-20(12-17)26-23(29)28(21)19-7-9-27(10-8-19)13-15-11-22(30-14-15)16-1-4-18(25)5-2-16;5-3(6)1-2-4(7)8/h1-6,12,15,19,22H,7-11,13-14H2,(H,26,29);1-2H,(H,5,6)(H,7,8)/b;2-1-/t15-,22-;/m1./s1
